US05922724
A mixture of 4-Fluoro-3-nitroacetophenone (5 g, 27.3 mmol) and 3-(3-pyridyl)aniline (4.62 g, 27.2 mmol) in dry 1-methyl-2-pyrrolidone (10 ml) is stirred at 40-50° C. overnight. The resulting solid reaction mixture is suspended in ice water (50 ml) and made alkaline by addition of 1 M NaHCO3. The product is filtered off, washed with water and dried to yield 7.68 g 4-acetyl-2-nitro-N-(3-(3-pyridyl)phenyl)aniline (85%).

reactant | 4-Fluoro-3-nitroacetophenone | 27.3 mmol, 5 g | CC(=O)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C8H6FNO3
reactant | 3-(3-pyridyl)aniline | 27.2 mmol, 4.62 g | N1=CC(=CC=C1)C=1C=C(N)C=CC1 | C11H10N2
reactant | NaHCO3 | 1 M | C(=O)(O)[O-].[Na+]
solvent | 1-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-acetyl-2-nitro-N-(3-(3-pyridyl)phenyl)aniline | 7.68 g, 85% | C(C)(=O)C1=CC(=C(NC2=CC(=CC=C2)C=2C=NC=CC2)C=C1)[N+](=O)[O-] | C19H15N3O3
